US08283354B2
(R)-1-(4-Benzyl-piperazin-1-yl)-2-hydroxy-4-methyl-pentan-1-one
To a cooled solution (0-5° C.) of (R)-α-hydroxyisocaproic acid (64.5 g, 0.5 mol), 1-benzylpiperazine (88 g, 0.5 mol) and triethylamine (71 ml, 0.5 mol) in CH2Cl2 (850 ml) was added in portions HOBt (68 g, 0.5 mol) and EDCI•HCl (96 g, 0.5 mol). The reaction mixture was stirred at room temperature overnight. The organic layer was washed with water (3×) and once with brine, dried over Na2SO4, and filtered, and the solvent was removed in vacuo. Crude (R)-1-(4-benzyl-piperazin-1-yl)-2-hydroxy-4-methyl-pentan-1-one (132 g, 91%) was used in the next step without further purification.

reactant | (R)-α-hydroxyisocaproic acid | 0.5 mol, 64.5 g | O[C@@H](C(=O)O)CC(C)C | C6H12O3
reactant | 1-benzylpiperazine | 0.5 mol, 88 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | triethylamine | 0.5 mol, 71 ml | C(C)N(CC)CC | C6H15N
reactant | HOBt | 0.5 mol, 68 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI•HCl | 0.5 mol, 96 g | CCN=C=NCCCN(C)C.Cl
solvent | CH2Cl2 | 850 ml | C(Cl)Cl | CH2Cl2
product | (R)-1-(4-Benzyl-piperazin-1-yl)-2-hydroxy-4-methyl-pentan-1-one | C(C1=CC=CC=C1)N1CCN(CC1)C([C@@H](CC(C)C)O)=O | C17H26N2O2
